US07049318B2
3-Methyl-2-(1-methyl-piperidin-4-yl)-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one:
To a solution of 3-methyl-2-(1-methyl-piperidin-4-yl)-6-pyridin-4-yl-3H-pyrimidin-4-one (0.64 mmol) in acetonitrile (2.5 mL) at 0° C. was added 2.5 mL 0.5M solution of nitronium tetrafluoroborate. After 30 min, the reaction product was isolated and purified on silica. M+1=329.

reactant | 3-methyl-2-(1-methyl-piperidin-4-yl)-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.64 mmol | CN1C(=NC(=CC1=O)C1=CC=NC=C1)C1CCN(CC1)C | C16H20N4O
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 3-Methyl-2-(1-methyl-piperidin-4-yl)-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | CN1C(=NC(=C(C1=O)[N+](=O)[O-])C1=CC=NC=C1)C1CCN(CC1)C | C16H19N5O3
